US04049672
N-cyano-N'-[2-((5-isopropyl-4-imidazolyl)methylamino) ethyl]-N"-methylguanidine
N-cyano-N'-[2-((5-benzyl-4-imidazolyl)methylamino)ethyl]-N"-methylguanidine p N-cyano-N'-[2-((5-bromo-4-imidazolyl)methylamine ethyl]-N"methylguanidine

reactant | N-cyano-N'-[2-((5-benzyl-4-imidazolyl)methylamino)ethyl]-N"-methylguanidine | C(#N)NC(=NC)NCCNCC=1N=CNC1CC1=CC=CC=C1 | C16H21N7
reactant | methylguanidine | CNC(=N)N | C2H7N3
product | N-cyano-N'-[2-((5-isopropyl-4-imidazolyl)methylamino) ethyl]-N"-methylguanidine | C(#N)NC(=NC)NCCNCC=1N=CNC1C(C)C | C12H21N7
